US09290476B2
(1-Methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanone
A heterogenous mixture of (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol (1.41 g, 7.45 mmol, Intermediate 25: step a) and manganese dioxide (3.24 g, 37.27 mmol) in 1,4-dioxane (52 mL) was stirred at 100° C. for 2 hours. The reaction mixture was then cooled to room temperature, filtered through Celite®, washed with DCM, and concentrated to provide the title compound as an off-white solid.

reactant | (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol | CN1C=NC=C1C(O)C1=NC=CC=C1 | C10H11N3O
solvent | 1,4-dioxane | 52 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 37.27 mmol, 3.24 g | [O-2].[O-2].[Mn+4]
product | (1-Methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanone | CN1C=NC=C1C(=O)C1=NC=CC=C1 | C10H9N3O
